US06531502B1
A mixture of 5-aminolevulinic acid hydrochloride (1.68 g, 10 mmol), 1,3-cyclohexanedione (1.12 g, 10 mmol) and sodium acetate (1.64 g, 20 mmol) in water (10 mL) was stirred at 110° C. for 4 hr and then cooled. The precipitate which formed was collected by vacuum filtration, washed with 30% of ethanol in water and dried under vacuum to give 1.7 g (82%) of 3-(4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid.

reactant | 5-aminolevulinic acid hydrochloride | 10 mmol, 1.68 g | Cl.NCC(CCC(=O)O)=O
reactant | 1,3-cyclohexanedione | 10 mmol, 1.12 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | sodium acetate | 20 mmol, 1.64 g | C(C)(=O)[O-].[Na+]
solvent | water | 10 mL | O | H2O
product | 3-(4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | 1.7 g, 82% | O=C1C=2C(=CNC2CCC1)CCC(=O)O | C11H13NO3
